* C:\users\crossover\Desktop\My Mac Desktop\circuit simulator team4\diode test.asc
L1 N002 N001 1m
R1 N005 0 100
D1 N002 N003 1N914
V1 N001 N004 AC 1m
V2 N004 0 5
R2 N005 N003 50
.model D D
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.dio
.ac dec 10 10 1k
* n1
* n4
* n2
* n3
* n5
.backanno
.end
