* C:\users\crossover\Desktop\My Mac Desktop\mosfet.asc
R1 N001 N004 5.3k
R2 N004 N003 10k
C1 N003 N002 1µ
V1 N002 0 AC 1m 0
V2 N001 0 5
M2 N004 N003 0 N005 testN l=10u w=100u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.mos
;op
.ac dec 10 10 100
* n1
* n2
* n3
* n4
.model testN nmos(kp=0.9m vt0=2.9 lambda=0.01)
.backanno
.end
