* C:\users\crossover\Desktop\My Mac Desktop\test circuit 1.asc
R1 N004 0 22k
R2 N001 N004 240k
R3 N001 N002 10k
Q1 N002 N004 N005 0 2N2222
R4 N005 0 1k
V1 N001 0 20
V2 N003 0 AC 1m 0
C1 N004 N003 1µ
.model NPN NPN
.model PNP PNP
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.bjt
;op
.ac dec 10 10 100
* n5
* n4
* n3
* n2
* n1
.backanno
.end
